US07423181B2
1-[2-Fluoro-4-(tetrahydro-pyran-2-yloxy)-phenyl]-ethanone
A solution of 1-(2-fluoro-4-hydroxy-phenyl)-ethanone (130 mmol), 3,4-dihydro-2H-pyran (260 mmol) and a catalytic amount of pyridinium p-toluenesulfonate in CH2Cl2 (200 mL) was left overnight at room temperature. The organic phase was washed with 1 N NaOH (aq) (1×50 mL) and dried (K2CO3). Evaporation in vacuo gave a brown oil, that was purified by vacuum distillation. The desired product was isolated as clear oil in 74% yield: bp: 130-140 ° C./0.05 mbar. 1H-NMR (CDCl3) δ 7.86 (t, 1H), 6.87 (dd, 1H), 6.82 (dd, 1H), 5.49 (t, 1H), 3.86-3.78 (m, 1H), 3.67-3.61 (m, 1H), 2.59 (d, 3H), 1.97-1.60 (m, 6H).

reactant | 1-(2-fluoro-4-hydroxy-phenyl)-ethanone | 130 mmol | FC1=C(C=CC(=C1)O)C(C)=O | C8H7FO2
reactant | 3,4-dihydro-2H-pyran | 260 mmol | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-Fluoro-4-(tetrahydro-pyran-2-yloxy)-phenyl]-ethanone | 74% yield | FC1=C(C=CC(=C1)OC1OCCCC1)C(C)=O | C13H15FO3
